US06987194B2
Step B Synthesis of N-{3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propyl}(tert.-butoxy)carboxamide as an Intermediate
A solution of 2.69 grams (0.010 mole) of 2,6-dichloro-4-phenylmethoxyphenol (known compound), 2.38 grams (0.010 mole) of (tert-butoxy)-N-(3-bromopropyl)carboxamide (commercially available) and 1.52 grams (0.011 mole) of potassium carbonate in 40 mL of DMF was stirred at ambient temperature during a four-day period. After this time the reaction mixture was shaken in diethyl ether and water, and the separated organic layer was washed with one portion of water and with one portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 4.15 grams of the subject compound.

reactant | 2,6-dichloro-4-phenylmethoxyphenol | 0.010 mole, 2.69 grams | ClC1=C(C(=CC(=C1)OCC1=CC=CC=C1)Cl)O | C13H10Cl2O2
reactant | (tert-butoxy)-N-(3-bromopropyl)carboxamide | 0.010 mole, 2.38 grams | C(C)(C)(C)OC(=O)NCCCBr | C8H16BrNO2
reactant | potassium carbonate | 0.011 mole, 1.52 grams | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{3-[2,6-dichloro-4-(phenylmethoxy)phenoxy]propyl}(tert.-butoxy)carboxamide | 4.15 grams | ClC1=C(OCCCNC(=O)OC(C)(C)C)C(=CC(=C1)OCC1=CC=CC=C1)Cl | C21H25Cl2NO4
